US04642338
Preparation of Methyl 2-(4-(2-Fluoro-4-nitrophenoxy)phenoxy)proprionate
A stirred mixture of 3,4-difluoronitrobenzene (13.5 g, 0.85 mol), methyl 2-(4-hydroxyphenoxy)-propionate (23.1 g, 0.085 mol), and potassium carbonate (12.5 g, 0.09 mol) in DMSO (200 ml) was heated in an oil bath (120° bath temperature) for one hour. After cooling the reaction mixture was poured into ice water (1000 ml) and the resulting mixture was extracted with ether (3×200 ml). The ether extracts were combined, pentane (200 ml) added, and the resulting solution washed with 5% sodium hydroxide solution (200 ml), then with water. After drying (MgSO4), the solvent was evaporated to give 28 g (98%) of the desired product as a light-yellow oil which solidified upon standing. Recrystallization from hexane-ether gave an analytical sample: m.p.=67.5°-69° C.; Calc: C, 57.31; H, 4.21; N, 4.18. Found: C, 57.00; H, 4.13; N, 4.11.

reactant | 3,4-difluoronitrobenzene | 0.85 mol, 13.5 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | methyl 2-(4-hydroxyphenoxy)-propionate | 0.085 mol, 23.1 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 0.09 mol, 12.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | Methyl 2-(4-(2-Fluoro-4-nitrophenoxy)phenoxy)proprionate | 28 g, 98% | FC1=C(OC2=CC=C(OC(C(=O)OC)C)C=C2)C=CC(=C1)[N+](=O)[O-] | C16H14FNO6
